US04017631
1-[2,4-Dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-(o-nitrobenzyl)imidazolium bromide;
mp. 138.5° -141° C., by the reaction of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazole and o-nitrobenzyl bromide.

reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | o-nitrobenzyl bromide | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
product | 1-[2,4-Dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-(o-nitrobenzyl)imidazolium bromide | [Br-].ClC1=C(C(C[N+]2=CN(C=C2)CC2=C(C=CC=C2)[N+](=O)[O-])OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | InChI=1S/C25H20Cl4N3O3.BrH/c26-19-6-5-18(22(28)11-19)15-35-25(21-8-7-20(27)12-23(21)29)14-31-10-9-30(16-31)13-17-3-1-2-4-24(17)32(33)34;/h1-12,16,25H,13-15H2;1H/q+1;/p-1
